US05405851
A solution of dodecyl 4-(4-nitrophenyl)-4-oxobutyrate (0.42 g, 1.1 mmol), in ethyl acetate (50 ml) and 10% palladium on carbon (0.10 g) were shaken under hydrogen (30-40 psi) for 10 minutes. The mixture was filtered and the filtrate concentrated in vacuo to give dodecyl 4-(4-aminophenyl)-4-oxobutyrate (0.38 g) as a white solid. 1H NMR (DMSO-d6, 300 MHz) δ: 0.86 (t, J=6.5 Hz, 3H, ester CH3), 1.10-1.37 (m, 18H, ester CH2 's), 1.47-1.60 (m, 2H, ester CH2), 2.57 (t, J=6.5 Hz, 2H, CH2), 3.10 (t, J=6.5 Hz, 2H, CH2), 3.98 (t, J=6.5 Hz, 2H, ester CH2), 6.04 (br s, 2H, NH2), 6.56 (d, J=8.5 Hz, 2H, Ar), 7.68 (d, J=8.5 Hz, 2H, Ar). Anal. Calculated for C22H35NO3.1/20 H2O: C, 72.91; H, 9.76; N, 3.86. Found: C, 72.86; H, 9.83; N, 3.82.

reactant | dodecyl 4-(4-nitrophenyl)-4-oxobutyrate | 1.1 mmol, 0.42 g | [N+](=O)([O-])C1=CC=C(C=C1)C(CCC(=O)OCCCCCCCCCCCC)=O | C22H33NO5
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.10 g | [Pd] | Pd
product | dodecyl 4-(4-aminophenyl)-4-oxobutyrate | 0.38 g | NC1=CC=C(C=C1)C(CCC(=O)OCCCCCCCCCCCC)=O | C22H35NO3
